US08754229B2
Preparation of (2,3-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)trimethylsilane
A solution of sec-butyllithium (1.4 M in cyclohexane; 19.17 mL, 26.8 mmol) was added to THF (53.7 mL) cooled to −75° C. To this solution was added (2,3-difluorophenyl)-trimethylsilane (prepared as in Heiss, C. et al. Eur. J. Org. Chem. 2007, 4, 669-675; 5.0 g, 26.8 mmol) dropwise keeping the temperature below −70° C. The resulting reaction mixture was stirred at −75° C. for 45 min after which time 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (5.49 g, 29.5 mmol) was added dropwise keeping the temperature below −70° C. The reaction mixture was then allowed to warm to 25° C. and was partitioned between Et2O and H2O. The aqueous phase was acidified to pH 3 with 12 Normal (N) HCl. The product was extracted with Et2O, and the organic phase was dried and concentrated under vacuum to provide the title compound as a white solid (5.03 g, 60%): 1H NMR (300 MHz, CDCl3) δ 7.42 (ddd, J=7.3, 4.4, 0.7 Hz, 1H), 7.09 (ddd, J=7.3, 4.1, 0.9 Hz, 1H), 1.36 (s, 12H), 0.32 (d, J=0.9 Hz, 9H); EIMS m/z 312.

reactant | sec-butyllithium | 26.8 mmol, 1.4 M, 19.17 mL | C(C)(CC)[Li]
reactant | (2,3-difluorophenyl)-trimethylsilane | 26.8 mmol, 5.0 g | FC1=C(C=CC=C1F)[Si](C)(C)C | C9H12F2Si
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 29.5 mmol, 5.49 g | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 53.7 mL | C1CCOC1 | C4H8O
product | (2,3-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)trimethylsilane | 5.03 g, 60% | FC1=C(C=CC(=C1F)B1OC(C(O1)(C)C)(C)C)[Si](C)(C)C | C15H23BF2O2Si
